US04762942
Hexanoic acid, 4-tetradecylphenyl ester
A mixture of 43.5 g of 4-tetradecylphenol, 34.8 g of hexanoic anhydride and 120 ml of pyridine was stirred for 3 days, then quenched with water and extracted with chloroform. The chloroform extract was washed several times with aqueous sodium bicarbonate, dried and the solvents removed. The residue was recrystallized from ether-methanol, giving 53.2 g of the desired compound.

reactant | 4-tetradecylphenol | 43.5 g | C(CCCCCCCCCCCCC)C1=CC=C(C=C1)O | C20H34O
reactant | hexanoic anhydride | 34.8 g | C(CCCCC)(=O)OC(CCCCC)=O | C12H22O3
solvent | pyridine | 120 ml | N1=CC=CC=C1 | C5H5N
product | Hexanoic acid, 4-tetradecylphenyl ester | 53.2 g | C(CCCCC)(=O)OC1=CC=C(C=C1)CCCCCCCCCCCCCC | C26H44O2
